US05187304
A mixture of 175 g (0.50 moles) of 1,5-bis-(4'-carbomethoxyphenyl)1,4-pentadien-3-one, 1.75 g copperchromite, and 1750 mL of toluene were placed in a stainless steel autoclave. The autoclave was pressurized to 250 psi with hydrogen and then heated to 180° C. Upon reaching the desired temperature the pressure was adjusted to 1000 psig with hydrogen. The temperature and pressure were maintained at these levels for 5 h. The autoclave was then cooled and vented. The mixture was removed from the autoclave and transferred to a 2 L Erlenmeyer flask where the mixture was heated to >90° C. and then filtered through a steam jacketed Buchner funnel using a pad of Celite Filter-Aid to assist in catalyst removal. The solution was allowed to cool to room temperature and was filtered to give 142.1 g of 1,5-bis-(4'-carbomethoxyphenyl)-3-pentanol as a fluffy, white crystalline product. The volume of the mother liquor was reduced in vacuo to a level of 500-600 mL, heated to dissolve any solids, and crystallized to give an additional 13.9 g. Reducing the volume to 250 mL yielded an additional 5.2 g. All three batches of crystals were indistinguishable by chromatography and were combined to give a total of 161.2 g (0.453 moles, 91% yield) of 1,5-bis-(4'-carbomethoxyphenyl)-3-pentanol. 270 MHz 1H NMR (CDCl3) δ=1.81 (t,4H), 2.77 (m,4H), 3.61 (m,1H), 3.88 (s,6H), 7.21 (d,4H), 7.91 (d,4H). IR (KBr): 1720, 1290 cm1 ; (mull) 3460 cm1. FDMS (M+/e): 356. Elemental Analysis: Calc. for C21H24O5 : C,70.77; H,6.79. Found: C,71.09; H,6.68. m.p. 129°-130° C.

reactant | 1,5-bis-(4'-carbomethoxyphenyl)1,4-pentadien-3-one | 0.50 moles, 175 g | C(=O)(OC)C1=CC=C(C=C1)C=CC(C=CC1=CC=C(C=C1)C(=O)OC)=O | C21H18O5
reactant | hydrogen | [H][H] | H2
solvent | toluene | 1750 mL | C1(=CC=CC=C1)C | C7H8
product | 1,5-bis-(4'-carbomethoxyphenyl)-3-pentanol | 142.1 g | C(=O)(OC)C1=CC=C(C=C1)CCC(CCC1=CC=C(C=C1)C(=O)OC)O | C21H24O5
